US04985419
A 2.2N ethereal solution (0.41 cc) of hydrochloric acid is added to a solution of 10-{1-[(2S)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}-N-(3-methylbutyl)-2-phenothiazinecarbothioamide, L series (0.42 g) in ethyl ether (40 cc). A gummy precipitate is deposited on the walls of the flask. The mixture is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The suspension is stirred for 12 hours at 25° C. in ethyl ether (50 cc). The precipitate is separated by filtration, washed with ethyl ether (2×10 cc) and dried at 40° C. under reduced pressure (5 mm Hg; 0.068 kPa) to give 10-{1-[(2S)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}-N-(3-methylbutyl)-2-phenothiazinecarbothioamide hydrochloride, L series (0.39 g), m.p. 131° C.

reactant | hydrochloric acid | Cl | ClH
reactant | 10-{1-[(2S)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}-N-(3-methylbutyl)-2-phenothiazinecarbothioamide | OC[C@H]1N(CCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(NCCC(C)C)=S | C26H35N3OS2
solvent | ethyl ether | 40 cc | C(C)OCC | C4H10O
product | 10-{1-[(2S)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}-N-(3-methylbutyl)-2-phenothiazinecarbothioamide hydrochloride | Cl.OC[C@H]1N(CCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(NCCC(C)C)=S | InChI=1S/C26H35N3OS2.ClH/c1-18(2)12-13-27-26(31)20-10-11-25-23(15-20)29(22-8-4-5-9-24(22)32-25)19(3)16-28-14-6-7-21(28)17-30;/h4-5,8-11,15,18-19,21,30H,6-7,12-14,16-17H2,1-3H3,(H,27,31);1H/t19?,21-;/m0./s1
